US07612075B2
B. 4-Chloro-7-methyl-quinazoline.
To a solution of 7-methyl-3H-quinazolin-4-one (10.6 g, 69 mmol) in toluene (350 mL) is added triethylamine (17.5 g, 173 mmol) followed by phosphorous oxychloride (12.3 g, 80 mmol). The resulting solution is heated to 80° C. After 4 hours, the solution is cooled to ambient temperature. The reaction mixture is poured into 500 mL of water. The layers are separated and the organic layer is washed with H2O, saturated NaHCO3, and saturated NaCl, dried over MgSO4, filtered and concentrated. The resulting crude product is purified by recrystallization from EtOAc. The title compound is obtained as a white solid (10 g, 56 mmol). 1H NMR (CDCl3, 300 MHz) δ9.02 (s, 1H), 8.16 (d, 1H), 7.87 (s, 1H), 7.55 (d, 1H), 2.62 (s, 3H).

reactant | 7-methyl-3H-quinazolin-4-one | 69 mmol, 10.6 g | CC1=CC=C2C(NC=NC2=C1)=O | C9H8N2O
reactant | triethylamine | 173 mmol, 17.5 g | C(C)N(CC)CC | C6H15N
reactant | phosphorous oxychloride | 80 mmol, 12.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 500 mL | O | H2O
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-7-methyl-quinazoline | ClC1=NC=NC2=CC(=CC=C12)C | C9H7ClN2
